US07696223B2
a) 4-Bromomethyl-2-phenyl-thiazole-5-carboxylic acid ethyl ester
A mixture of 4-methyl-2-phenyl-thiazole-5-carboxylic acid ethyl ester (5.04 g, 0.02 mol), N-bromosuccinimide (3.8 g, 0.02 mol) and benzoyl peroxide (247 mg, 1 mmol) in carbon tetrachloride (60 mL) was refluxed for 17 h before it was cooled to room temperature and filtered. The filtrate was washed with water, saturated aqueous sodium bicarbonate solution, brine, dried over anhydrous sodium sulfate and concentrated in vacuo to give the title compound as a yellow solid (6.55 g): 1H NMR (CDCl3, 200 MHz): δ=7.94 (m, 2H), 7.44 (m, 3H), 7.03 (m, 1H), 4.98 (s, 3H), 4.41 (q, J=7.0 Hz, 2H), 1.41 (t, J=7.0 Hz, 3H); MS: (+) m/z 326.0, 328.0 (M+1, 79Br/81Br).

reactant | 4-methyl-2-phenyl-thiazole-5-carboxylic acid ethyl ester | 0.02 mol, 5.04 g | C(C)OC(=O)C1=C(N=C(S1)C1=CC=CC=C1)C | C13H13NO2S
reactant | N-bromosuccinimide | 0.02 mol, 3.8 g | BrN1C(CCC1=O)=O | C4H4BrNO2
solvent | carbon tetrachloride | 60 mL | C(Cl)(Cl)(Cl)Cl | CCl4
catalyst | benzoyl peroxide | 1 mmol, 247 mg | C(C1=CC=CC=C1)(=O)OOC(C1=CC=CC=C1)=O | C14H10O4
product | 4-Bromomethyl-2-phenyl-thiazole-5-carboxylic acid ethyl ester | 6.55 g | C(C)OC(=O)C1=C(N=C(S1)C1=CC=CC=C1)CBr | C13H12BrNO2S
